US06291465B1
To a solution of 272 mg (1.0 mmol) 3,5-bis-(trifluoromethyl)phenylacetic acid in 1 ml tetrahydrofuran 162 mg (1.0 mmol) 1,1′-carbonyldiimidazole was added in one portion at 0°. The reaction mixture was stirred for 2 hrs at room temperature and 147 mg (0.8 mmol) biphenyl-2-yl-methyl-amine was added. Stirring was continued for 3 days at room temperature. The reaction mixture was evaporated and the residue was purified by chromatography (SiO2, hexane/ethyl acetate 3:1) to give 160 mg (46%) N-biphenyl-2-yl-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-acetamide as white crystals, MS (ISP): 438.2 (M+H)+. EXAMPLE 15

reactant | 3,5-bis-(trifluoromethyl)phenylacetic acid | 1.0 mmol, 272 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)O)(F)F | C10H6F6O2
reactant | tetrahydrofuran | 1.0 mmol, 1 ml, 162 mg | O1CCCC1 | C4H8O
reactant | biphenyl-2-yl-methyl-amine | 0.8 mmol, 147 mg | C1(=C(C=CC=C1)NC)C1=CC=CC=C1 | C13H13N
product | N-biphenyl-2-yl-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-acetamide | 160 mg, 46% | C1(=C(C=CC=C1)N(C(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=CC=CC=C1 | C23H17F6NO
